US07018988B2
(2S,4EZ)-N2-(2,1,3-benzothiadiazol-4-yl)-N1-(3,5-dichlorophenyl)-4-(methoxyimino)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 1,3-dichloro-5-isocyanatobenzene, and 2,1,3-benzothiadiazol-4-amine the title compound was obtained in 55% purity by LC/MS. MS(ESI+): m/z=479.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | 2,1,3-benzothiadiazol-4-amine | N=1SN=C2C1C=CC=C2N | C6H5N3S
product | (2S,4EZ)-N2-(2,1,3-benzothiadiazol-4-yl)-N1-(3,5-dichlorophenyl)-4-(methoxyimino)-1,2-pyrrolidinedicarboxamide | N=1SN=C2C1C=CC=C2NC(=O)[C@H]2N(CC(C2)=NOC)C(=O)NC2=CC(=CC(=C2)Cl)Cl | C19H16Cl2N6O3S
